** Generated for: hspiceD
** Generated on: Apr 17 15:11:14 2015
** Design library name: ECE8893_lib
** Design cell name: inv_chain
** Design view name: schematic
.PARAM f=10e3 endtime=10*1/f period=1/f pulse=1/f*1/2


.TRAN 10e-12 endtime START=0.0 SWEEP DATA=D

.DATA D
f
1e3
10e3
100e3
1000e3
.ENDDATA

.OP

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_VTL.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_VTL.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_VTH.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_VTG.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_VTH.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_VTG.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/PMOS_THKOX.inc"
.INCLUDE "/nethome/jshinsato3/ECE6130_Cadence/FreePDK45/ncsu_basekit/models/hspice/tran_models/models_nom/NMOS_THKOX.inc"

** Library name: ECE8893_lib
** Cell name: inv_chain
** View name: schematic
m19 out net032 vcc vcc PMOS_VTH L=45e-9 W=2.36196e-3
m17 net032 net029 vcc vcc PMOS_VTH L=45e-9 W=787.32e-6
m14 net029 net025 vcc vcc PMOS_VTH L=45e-9 W=262.44e-6
m13 net025 net021 vcc vcc PMOS_VTH L=45e-9 W=87.48e-6
m11 net021 net018 vcc vcc PMOS_VTH L=45e-9 W=29.16e-6
m9 net018 net15 vcc vcc PMOS_VTH L=45e-9 W=9.72e-6
m6 net15 net12 vcc vcc PMOS_VTH L=45e-9 W=3.24e-6
m5 net12 net8 vcc vcc PMOS_VTH L=45e-9 W=1.08e-6
m3 net8 net4 vcc vcc PMOS_VTH L=45e-9 W=360e-9
m1 net4 in vcc vcc PMOS_VTH L=45e-9 W=360e-9
m18 out net032 vss 0 NMOS_VTH L=45e-9 W=1.77147e-3
m16 net032 net029 vss 0 NMOS_VTH L=45e-9 W=590.49e-6
m15 net029 net025 vss 0 NMOS_VTH L=45e-9 W=196.83e-6
m12 net025 net021 vss 0 NMOS_VTH L=45e-9 W=65.61e-6
m10 net021 net018 vss 0 NMOS_VTH L=45e-9 W=21.87e-6
m8 net018 net15 vss 0 NMOS_VTH L=45e-9 W=7.29e-6
m7 net15 net12 vss 0 NMOS_VTH L=45e-9 W=2.43e-6
m4 net12 net8 vss 0 NMOS_VTH L=45e-9 W=810e-9
m2 net8 net4 vss 0 NMOS_VTH L=45e-9 W=270e-9
m0 net4 in vss 0 NMOS_VTH L=45e-9 W=90e-9

vvss vss 0 DC=0
vvcc vcc 0 DC=1.2
vin in 0 pulse 1.2 0 0 0 0 pulse period

.meas tran Iavg AVG I(vvcc) FROM=0 TO=endtime
.meas tran Vavg AVG V(vcc) FROM=0 TO=endtime
.meas tran Etot Param='Iavg*Vavg*endtime*-1'

.END
